US05856326
Step B: 5-tert-Butyldimethylsilyloxymethyl-1-(4-cyanobenzyl)imidazole
A solution of 4-(tert-butyldimethylsilyloxymethyl)-1-triphenylmethylimidazole (4.66 g, 10.26 mmol) and 1-bromomethyl-4-cyanobenzene (2.01 g, 10.26 mmol) in acetonitrile (50 mL) was refluxed 4 h. The reaction was cooled, acetonitrile removed in vacuo, and the residue dissolved in methanol (30 mL). This solution was refluxed for 2 h, cooled and methanol evaporated. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The crude product was chromatographed on silica with 3% methanol in chloroform. The title compound was obtained as a white solid.

reactant | 4-(tert-butyldimethylsilyloxymethyl)-1-triphenylmethylimidazole | 10.26 mmol, 4.66 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2OSi
reactant | 1-bromomethyl-4-cyanobenzene | 10.26 mmol, 2.01 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-tert-Butyldimethylsilyloxymethyl-1-(4-cyanobenzyl)imidazole | [Si](C)(C)(C(C)(C)C)OCC1=CN=CN1CC1=CC=C(C=C1)C#N | C18H25N3OSi
